US06498169B1
Synthesis of 4-[N-(3-Methylthiophenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride
4-(3-Methylthioanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine (143 mg) and 5-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (114 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a trihydrochloride.

reactant | 4-(3-Methylthioanilino)-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine | 143 mg | CSC=1C=C(NC2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CC1 | C27H33N3O3S
reactant | 5-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 114 mg | ClCC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(3-Methylthiophenyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Trihydrochloride | Cl.Cl.Cl.CSC=1C=C(C=CC1)N(CC=1C=CC(=NC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C42H48N4O6S.3ClH/c1-47-37-20-30(21-38(48-2)41(37)51-5)35-12-11-29(25-44-35)27-46(33-9-8-10-34(24-33)53-7)32-14-17-45(18-15-32)26-28-13-16-43-36(19-28)31-22-39(49-3)42(52-6)40(23-31)50-4;;;/h8-13,16,19-25,32H,14-15,17-18,26-27H2,1-7H3;3*1H
